US03931177
Preparation of 6-[3-(3-t-Butylamino-2-hydroxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of 6-[3-(2,3-epoxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone (3.3 g, 0.013 mole) methanol (33 ml) and t-butylamine (8 ml, 0.076 mole) was heated under reflux for 75 minutes. Evaporation of the solution under reduced pressure gave a gum which when treated with ether, solidified 4.27 g, 100%, m.p. 153°-158°C. 6-[3-(3-t-Butylamino-2-hydroxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone was purified as its hemisulphate m.p. 274°-276°C (decomposition), which recrystallised from aqueous ethanol had m.p. 275°-277°C (decomposition).

reactant | 6-[3-(2,3-epoxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone | 0.013 mole, 33 ml, 3.3 g | O1C(COC=2C=C(C=CC2C)C=2CCC(NN2)=O)C1 | C14H16N2O3
reactant | t-butylamine | 0.076 mole, 8 ml | C(C)(C)(C)N | C4H11N
solvent | ether | CCOCC | C4H10O
product | 6-[3-(3-t-Butylamino-2-hydroxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC=1C=C(C=CC1C)C=1CCC(NN1)=O)O | C18H27N3O3
